US08283353B2
4′-{[5-oxo-7-propyl-4-(tetrahydro-2H-pyran-4-yl)-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile
A mixture of N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazol-5-amine (1.00 g), ethyl 2-[(2′-cyanobiphenyl-4-yl)methyl]-3-oxohexanoate (4.20 g), 1,8-diazabicyclo[5.4.0]undec-7-ene (0.9 mL) and N,N-diethylaniline (10 mL) was stirred at 180° C. overnight, allowed to cool, and poured into 1 M hydrochloric acid (50 mL), and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (2.39 g, 88%).

reactant | N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazol-5-amine | 1.00 g | O1CCC(CC1)NC1=CC=NN1 | C8H13N3O
reactant | ethyl 2-[(2′-cyanobiphenyl-4-yl)methyl]-3-oxohexanoate | 4.20 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC(C(=O)OCC)C(CCC)=O | C22H23NO3
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.9 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | N,N-diethylaniline | 10 mL | C(C)N(C1=CC=CC=C1)CC | C10H15N
solvent | hydrochloric acid | 1 M, 50 mL | Cl | ClH
product | 4′-{[5-oxo-7-propyl-4-(tetrahydro-2H-pyran-4-yl)-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 2.39 g, 88% | O=C1N(C=2N(C(=C1CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CC2)C2CCOCC2 | C28H28N4O2
